US06355660B1
To a mechanically stirred solution of methyl 3-hydroxypicolinate (30.6 g) in water (800 mL) was slowly added bromine (32 g) over a 30 minute period. After the addition was complete, stirring was continued for an additional hour. Ether (300 mL) was added and stirring continued until all the solids had dissolved. The organic layer was separated and the aqueous phase extracted with ether (200 mL). The organic phases were combined, dried (MgSO4) and the solvent evaporated to give 32.8 g of methyl 6-bromo-3-hydroxypicolinate as an off-white solid. Recrystallization from methanol/water gave an analytical sample, m.p. 115-117° C.

reactant | methyl 3-hydroxypicolinate | 30.6 g | OC=1C(=NC=CC1)C(=O)OC | C7H7NO3
reactant | bromine | 32 g | BrBr | Br2
reactant | Ether | 300 mL | CCOCC | C4H10O
solvent | water | 800 mL | O | H2O
product | methyl 6-bromo-3-hydroxypicolinate | 32.8 g | BrC1=CC=C(C(=N1)C(=O)OC)O | C7H6BrNO3
